US09260408B2
[C] 6-{5-[(3-Ethyl-oxetan-3-ylamino)-methyl]-pyridin-3-yl}-1-methyl-3,4-dihydro-1H-quinolin-2-one
To a stirred solution of 6-(5-chloromethyl-pyridin-3-yl)-1-methyl-3,4-dihydro-1H-quinolin-2-one (190 mg, 0.66 mmol) in DMF (5.0 mL) was added K2CO3 (276 mg, 2.0 mmol) and 3-ethyl-oxetan-3-ylamine (415 mg, 3.0 mmol) at room temperature and the resulting reaction mixture was stirred at room temperature for additional 12 hours. After extraction with EtOAc, the organic layer was washed with brine, dried over anhydrous Na2SO4, filtered and concentrated in vacuo to give a crude product which was purified by prep-HPLC to give title compound (35 mg, 17.2%) as a light yellow solid. MS: 352.1 (M+H+).

reactant | 6-(5-chloromethyl-pyridin-3-yl)-1-methyl-3,4-dihydro-1H-quinolin-2-one | 0.66 mmol, 190 mg | ClCC=1C=C(C=NC1)C=1C=C2CCC(N(C2=CC1)C)=O | C16H15ClN2O
reactant | K2CO3 | 2.0 mmol, 276 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | 3-ethyl-oxetan-3-ylamine | 3.0 mmol, 415 mg | C(C)C1(COC1)N | C5H11NO
solvent | DMF | 5.0 mL | CN(C)C=O | C3H7NO
product | 6-{5-[(3-Ethyl-oxetan-3-ylamino)-methyl]-pyridin-3-yl}-1-methyl-3,4-dihydro-1H-quinolin-2-one | 35 mg, 17.2% | C(C)C1(COC1)NCC=1C=C(C=NC1)C=1C=C2CCC(N(C2=CC1)C)=O | C21H25N3O2
